US09278983B2
To an autoclave reactor, 3-bromo-5-trifluoromethyl-pyridine-2-ylamine (40 g), acetylacetone copper(II) (2.2 g), acetylacetone (6.6 g), cesium carbonate (59 g), and NMP (105 ml) were added, and then 28% of aqueous ammonia solution (25 mL) was added under ice-cooling. After the reactor was sealed, the mixture heated to 110° C., and stirred with heating for 12 hours. The mixture was ice-cooled to room temperature, then diluted with water, and extracted with ethyl acetate. The combined organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 15 g 5-trifluoromethyl-pyridine-2,3-diamine (Compound (1F)-22).

reactant | 3-bromo-5-trifluoromethyl-pyridine-2-ylamine | 40 g | BrC=1C(=NC=C(C1)C(F)(F)F)N | C6H4BrF3N2
reactant | acetylacetone | 6.6 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | cesium carbonate | 59 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ammonia | 25 mL | N | H3N
solvent | water | O | H2O
catalyst | acetylacetone copper(II) | 2.2 g | [Cu+2].C(C)(=O)CC(C)=O
solvent | NMP | 105 ml | CN1CCCC1=O | C5H9NO
product | 5-trifluoromethyl-pyridine-2,3-diamine | 15 g | FC(C=1C=C(C(=NC1)N)N)(F)F | C6H6F3N3
